US07253192B2
A] 2-Methyl-2-{2-methyl-4-[5-(2-trifluoromethyl-pyrimidin-5-yl)-pent-4-ynyloxy]-phenoxy}-propionic acid
In analogy to the procedure described in example 24E], 5-chloro-2-trifluoromethyl-pyrimidine (example 28B]) and 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid (example 26B]), followed by flash chromatography (SiO2, CH2Cl2/MeOH 2.5 to 10%) and precipitation ether/n-pentane yielded the title compound as white powder, mp. 95-97° C., dec.

reactant | 5-chloro-2-trifluoromethyl-pyrimidine | ClC=1C=NC(=NC1)C(F)(F)F | C5H2ClF3N2
reactant | 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid | CC(C(=O)O)(C)OC1=C(C=C(C=C1)OCCCC#C)C | C16H20O4
product | 2-Methyl-2-{2-methyl-4-[5-(2-trifluoromethyl-pyrimidin-5-yl)-pent-4-ynyloxy]-phenoxy}-propionic acid | CC(C(=O)O)(C)OC1=C(C=C(C=C1)OCCCC#CC=1C=NC(=NC1)C(F)(F)F)C | C21H21F3N2O4
